US08609675B2
A mixture of ethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-methylcyclohex-3-enecarboxylate (Int-18g, 48 mg, 0.061 mmol), (Z)-1-ethoxy-2-(tributylstannyl)ethane (72 mg), Pd(PPh3)4 (11 mg, 0.01 mmol) in dioxane (3 ml) was stirred at 100° C. under Ar for 8 h. After cooling to rt, the reaction mixture was passed through a short SiO2/KF (9:1) plug to removed majority of the Sn species. The filtrate was concentrated to give (Z)-ethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(2-ethoxyvinyl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-methylcyclohex-3-enecarboxylate (Int-18h) which was used in the next step directly without further purification. HPLC-MS tR=3.02 min (UV254 nm); mass calculated for formula C43H61N5O5Si2 783.4, observed LCMS m/z 784.2 (M+H).

reactant | ethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-methylcyclohex-3-enecarboxylate | 0.061 mmol, 48 mg | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C2=CCC(CC2)(C(=O)OCC)C)Br)COCC[Si](C)(C)C)(C)C | C39H54BrN5O4Si2
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.01 mmol, 11 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (Z)-ethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(2-ethoxyvinyl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-methylcyclohex-3-enecarboxylate | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C2=CCC(CC2)(C(=O)OCC)C)\C=C/OCC)COCC[Si](C)(C)C)(C)C | C43H61N5O5Si2
